US06878706B1
N-Bromoacetyl-morpholine (3.73 g, 18 mmol) was dissolved in 20 mL of THF. Isobutylamine (5.40 mL, 54.0 mmol) was added. The reaction mixture was stirred at room temperature for 24 h. Solvent and excess reagent were removed in vacuo. The residue was treated with ether. The resulting solid was removed by filtration and washed with ether. The filtrate was concentrated under reduced pressure to give 2-isobutylamino-1-morpholin-4-yl-ethanone (1.43 g, 40%) as a clear oil.

reactant | N-Bromoacetyl-morpholine | 18 mmol, 3.73 g | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | Isobutylamine | 54.0 mmol, 5.40 mL | C(C(C)C)N | C4H11N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-isobutylamino-1-morpholin-4-yl-ethanone | 1.43 g, 40% | C(C(C)C)NCC(=O)N1CCOCC1 | C10H20N2O2
